US07034039B2
2-[4-Butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid (0.16 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid hydrochloride (0.13 g, 92.9%) as crystals.

reactant | 2-[4-Butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid | 0.3 mmol, 0.16 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC=C(N1)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C27H35N3O6S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid hydrochloride | 0.13 g, 92.9% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C(=O)O)=O)CC(C)C | InChI=1S/C22H27N3O4S.ClH/c1-4-5-8-29-19-16-9-14(20-24-17(12-30-20)22(27)28)6-7-15(16)21(26)25(11-13(2)3)18(19)10-23;/h6-7,9,12-13H,4-5,8,10-11,23H2,1-3H3,(H,27,28);1H
